US07501538B2
(2S)-[2-(biphenyl-4-ylmethoxy)-benzoylamino]-3-[4-(biphenyl4-ylmethoxy)-phenyl]-propionic acid
(S)-2-[2-(biphenyl-4-ylmethoxy)-benzoylamino]-3-[4-(biphenyl-4-ylmethoxy)-phenyl]-propionic acid methyl ester (50 mg, 0.077 mmol) was dissolved in 5 mL of THF-MeOH (4-1), cooled to 0° C. and 1.1 equiv of 2 N LiOH added. After 30 minutes, 3.2 additional equiv of 2N LiOH was added and the reaction stirred for 30 minutes. The reaction was worked up according to Procedure C to give 29 mg of the title compound.

reactant | (S)-2-[2-(biphenyl-4-ylmethoxy)-benzoylamino]-3-[4-(biphenyl-4-ylmethoxy)-phenyl]-propionic acid methyl ester | 0.077 mmol, 50 mg | COC([C@H](CC1=CC=C(C=C1)OCC1=CC=C(C=C1)C1=CC=CC=C1)NC(C1=C(C=CC=C1)OCC1=CC=C(C=C1)C1=CC=CC=C1)=O)=O | C43H37NO5
reactant | LiOH | 2 N, 1.1 equiv | [Li+].[OH-]
reactant | LiOH | 2N | [Li+].[OH-]
solvent | THF MeOH | 5 mL | C1CCOC1.CO
product | (2S)-[2-(biphenyl-4-ylmethoxy)-benzoylamino]-3-[4-(biphenyl4-ylmethoxy)-phenyl]-propionic acid | 29 mg | C1(=CC=C(C=C1)COC1=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)OCC2=CC=C(C=C2)C2=CC=CC=C2)C=CC=C1)C1=CC=CC=C1 | C42H35NO5
